US05112947
(2) Boc-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl
The desired compound was prepared as an oily product from 12 g of Boc-D-Pro-Arg(NO2)-OBzl, 60 ml of 4N HCl-AcOEt, 3.3 ml of Et3N, 7 g of Boc-Ser(Bzl)-OH, 4.2 g of HOBt and 5.1 g of DCC in the same manner as in Example 7-(2).

reactant | Boc-D-Pro-Arg(NO2)-OBzl | 12 g | N1([C@@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C23H34N6O7
reactant | HCl AcOEt | 4N, 60 ml | Cl.CCOC(=O)C
reactant | Boc-Ser(Bzl)-OH | 7 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | HOBt | 4.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 5.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | Et3N | 3.3 ml | CCN(CC)CC | C6H15N
product | Boc-Ser(Bzl)-D-Pro-Arg(NO2)-OBzl | N([C@@H](COCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H45N7O9
